US05578593
(2R)-4-(4-hydroxyphenyl)-2-(t-butoxycarbonyl)amino-butanoic acid
To a stirred solution of (2R)-4-(4-hydroxyphenyl)-2-amino-butanoic acid hydrobromide (5.0 g, 18.18 mmol) and triethylamine (5.25 mL, 2 eq) in dioxane (50 mL) and water (50 mL) at 0° C. was added a solution of 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitile (BOCON) (4.9 g) in dioxane (10 mL). The reaction mixture was allowed to warm up to room temperature and stirred for five hours when it became homogeneous: The reaction mixture was diluted with ethyl acetate (EtOAc) and the organic was seperated. The aqueous layer was acidified with citric acid (20%) and extracted with EtOAc. The combined organics were washed with brine, dried over magnesium sulfate, filtered and evaporated to give the desired material.

reactant | (2R)-4-(4-hydroxyphenyl)-2-amino-butanoic acid hydrobromide | 18.18 mmol, 5.0 g | Br.OC1=CC=C(C=C1)CC[C@H](C(=O)O)N
reactant | triethylamine | 5.25 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitile | 4.9 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-4-(4-hydroxyphenyl)-2-(t-butoxycarbonyl)amino-butanoic acid | OC1=CC=C(C=C1)CC[C@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
